US09399637B2
Step 4) tert-butyl 5-(benzylamino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a solution of tert-butyl 5-oxohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (9.57 g, 42.5 mmol) in DCM (170 mL) were added BnNH2 (4.56 g, 42.5 mmol) and AcOH (2.55 g, 42.5 mmol) at 0° C. and the reaction mixture was stirred at 0° C. for 0.5 h. Then NaBH(OAc)3 (18.00 g, 85.0 mmol) was added to the above mixture and the resulting mixture was stirred at rt for another 20 h, then quenched with saturated NaHCO3 solution (142 mL), and extracted with DCM (250 mL×3). The combined organic phases were washed with brine (250 mL×3), dried over anhydrous Na2SO4, concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc) to give the title compound as a yellow solid (7.44 g, 55.3%).

reactant | tert-butyl 5-oxohexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 42.5 mmol, 9.57 g | O=C1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C12H19NO3
reactant | BnNH2 | 42.5 mmol, 4.56 g | C(C1=CC=CC=C1)N | C7H9N
reactant | AcOH | 42.5 mmol, 2.55 g | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 85.0 mmol, 18.00 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 170 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 5-(benzylamino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 7.44 g, 55.3% | C(C1=CC=CC=C1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C19H28N2O2
